US09085576B2
Step 3: 5-Chloro-3-(fluoromethyl)-2-vinylpyridine
To a solution of triethylamine trihydrofluoride (Aldrich, 1.9 mL, 12 mmol) in DCM (30 mL) at −78° C., was added Xtalfluor-E (4.1 g, 18 mmol, Aldrich), followed by a solution of (5-chloro-2-vinylpyridin-3-yl)methanol (2 g, 12 mmol) in DCM (40 mL). The cold bath was removed and the reaction mixture was allowed to warm from −78° C. to rt over a period of 15 min. The reaction was quenched by the addition of aqueous saturated bicarbonate solution. After 15 min stirring at rt, the reaction mixture was diluted with EtOAc and water. The organic phase was separated and dried over MgSO4. The filtrate was absorbed onto a plug of silica gel and purified by chromatography through, eluting with a gradient of 5% to 45% EtOAc in hexane, to provide the title compound as colorless oil (1.22 g). LC/MS m/z=172.1 [M+H]+.

reactant | triethylamine trihydrofluoride | 12 mmol, 1.9 mL | F.F.F.C(C)N(CC)CC
reactant | Xtalfluor-E | 18 mmol, 4.1 g | [B-](F)(F)(F)F.CCN(CC)[S+](F)F
reactant | (5-chloro-2-vinylpyridin-3-yl)methanol | 12 mmol, 2 g | ClC=1C=C(C(=NC1)C=C)CO | C8H8ClNO
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-3-(fluoromethyl)-2-vinylpyridine | 1.22 g | ClC=1C=C(C(=NC1)C=C)CF | C8H7ClFN
